US06838465B2
(2S)-1-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3,3-dimethyl-2-((2-nitrophenyl)amino)butan-1-one
Anhydrous potassium carbonate (640 mg, 4.63 mmol) and 2-fluoronitrobenzene (820 mg, 5.81 mmol) were added to a dimethyl sulfoxide (100 ml) solution of N-(2-amino-3,3-dimethylbutyryl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.05 g, 3.42 mmol) obtained in Reference example 7, and the mixture was heated at 80° C. for 90 minutes. The reaction mixture was cooled to room temperature, diluted with a diethyl ether solution (200 ml), washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography using ethyl acetate and hexane (1:4 to 2:1) as an eluent to obtain the captioned compound (395 mg, 27%) as an orange foamy substance.

reactant | potassium carbonate | 4.63 mmol, 640 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoronitrobenzene | 5.81 mmol, 820 mg | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | N-(2-amino-3,3-dimethylbutyryl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.42 mmol, 1.05 g | Cl.NC(C(=O)N1CC2=CC(=C(C=C2CC1)OC)OC)C(C)(C)C
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | (2S)-1-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3,3-dimethyl-2-((2-nitrophenyl)amino)butan-1-one | 395 mg, 27% | COC=1C=C2CCN(CC2=CC1OC)C([C@H](C(C)(C)C)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C23H29N3O5
